US07776869B2
To a solution of 3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)-benzenamine (0.274 g, 1 mmol) in CH2Cl2 (3 mL) at room temperature was added 3-iodo-4-methylbenzoyl chloride (0.267 g, 0.95 mmol). The mixture was allowed to stir for 20 h. The reaction was concentrated under reduced pressure, and purified via column chromatography (0 to 20% methanol in dichloromethane) to afford 3-iodo-4-methyl-N-(3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)phenyl)benzamide. MS m/z=518. Calc'd for C24H18ClF3N4O: 517.33.

reactant | 3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)-benzenamine | 1 mmol, 0.274 g | CN1CCN(CC1)CC=1C=C(C=C(C1)C(F)(F)F)N | C13H18F3N3
reactant | 3-iodo-4-methylbenzoyl chloride | 0.95 mmol, 0.267 g | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-iodo-4-methyl-N-(3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)CN2CCN(CC2)C)C=CC1C | C21H23F3IN3O
